US05004741
1,3-Dihydro-5-(2-fluorophenyl)-3-(RS)-(p-trifluoromethylbenzoylamino)-2H-1,4-benzodiazepin-2-one
1,3-Dihydro-3-(RS)-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one (42 mg, 0.156 mmole) and p-trifluoromethylbenzoyl chloride (32.5 mg, 0.156 mmole) were combined in 3 ml of methylene chloride (CH2Cl2), treated with triethylamine (0.0157 g, 0.156 mmole) and stirred at room temperature 15 minutes. The mixture was diluted with CH2Cl2 (20 ml), washed with 10% citric acid (2×5 ml), dilute sodium bicarbonate (2×5 ml), and water (2×5 ml), dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was crystallized from ethyl acetate (0.4 ml)/ether (1 ml) to give the title compound which was dried in vacuo at 90°: (m.p. 209°-211°).

reactant | 1,3-Dihydro-3-(RS)-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | 0.156 mmole, 42 mg | NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)=O | C15H12FN3O
reactant | p-trifluoromethylbenzoyl chloride | 0.156 mmole, 32.5 mg | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | triethylamine | 0.156 mmole, 0.0157 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 1,3-Dihydro-5-(2-fluorophenyl)-3-(RS)-(p-trifluoromethylbenzoylamino)-2H-1,4-benzodiazepin-2-one | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)NC(C2=CC=C(C=C2)C(F)(F)F)=O | C23H15F4N3O2
